US08124600B2
Following general procedure GP-G, 1-benzyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate was converted to lithium (R)-1-benzyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate: MS (ESI+) m/z 391 (M+H). Step D: Following general procedure CP-H, lithium (R)-1-benzyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate was converted to (R)-2-benzyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, which was immediately treated with hydrochloric acid following general procedure GP-I to give (R)-2-benzyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 7.62 (d, J=4.0 Hz, 1H), 7.56-7.51 (m, 2H), 7.29-7.25 (m, 5H), 5.65 (s, 2H), 5.29 (d, J=8.5 Hz, 1H), 5.19 (d, J=8.5 Hz, 1H), 4.70 (t, J=9.5 Hz, 1H), 3.89-3.78 (m, 2H), 3.68-3.63 (m, 1H), 3.44-3.40 (m, 3H), 2.63 (br s, 1H), 2.44-2.38 (m, 1H), 2.18-2.11 (m, 2H), 2.05 (br s, 1H); MS (ESI+) m/z 373 (M+H); HPLC>99% (AUC), tR 14.38 min.

reactant | 1-benzyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate | C(C1=CC=CC=C1)N1N=C(C=2C(=CC=CC12)C(=O)[O-])CNC1CN2CCC1CC2
reactant | lithium (R)-1-benzyl-3-((quinuclidin-3-ylamino)methyl)-1H-indazole-4-carboxylate | C(C1=CC=CC=C1)N1N=C(C=2C(=CC=CC12)C(=O)[O-])CN[C@H]1CN2CCC1CC2.[Li+]
reactant | (R)-2-benzyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one | C(C1=CC=CC=C1)N1N=C2C3=C1C=NC=C3C([C@H](C2)C2CN3CCC2CC3)=O | C23H24N4O
reactant | hydrochloric acid | Cl | ClH
product | (R)-2-benzyl-7-(quinuclidin-3-yl)-7,8-dihydropyrazolo[3,4,5-de]isoquinolin-6(2H)-one, hydrochloride salt | Cl.C(C1=CC=CC=C1)N1N=C2C3=C1C=NC=C3C([C@H](C2)C2CN3CCC2CC3)=O | InChI=1S/C23H24N4O.ClH/c28-23-17(19-14-26-8-6-16(19)7-9-26)10-20-22-18(23)11-24-12-21(22)27(25-20)13-15-4-2-1-3-5-15;/h1-5,11-12,16-17,19H,6-10,13-14H2;1H/t17-,19?;/m1./s1
